US05801248
Ferrocenecarboxaldehyde sodium L-alaninate imine
Aqueous sodium hydroxide (11.2 mmol in 11 ml of water) was added to L-alanine (1.0 g, 11.22 mmol) and stirred for several minutes at room temperature. The solvent was removed in vacuo and the residue dried at 60° C. under high vacuum overnight. 4 Å molecular sieves, ferrocenecarboxaldehyde (11.78 mmol, 2.52 g) and absolute ethanol (50 ml) were added to the alaninate and stirred for 5 hours; the course of the reaction can be followed by IR. The molecular sieves were separated by filtration, the filtrate concentrated on a vacuum line and a red solid was obtained. Pentane (50 ml) was added and the mixture was stirred until a suspension was formed. This was filtered through a sinter and the residue was washed with pentane and dried under vacuum to give the title compound as a yellow-orange solid (3.28 g, 950%); νmax (KBr disc) 1641 s (C=N) and 1591 (CO2-) cm-1. The imine rapidly undergoes hydrolysis on silica or in the presence of water.

reactant | sodium hydroxide | 11.2 mmol, 11 ml | [OH-].[Na+]
reactant | L-alanine | 11.22 mmol, 1.0 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | ferrocenecarboxaldehyde | 11.78 mmol, 2.52 g | [C-]1(C=CC=C1)C=O.[CH-]1C=CC=C1.[Fe+2]
reactant | alaninate | N[C@@H](C)C(=O)[O-]
solvent | Pentane | 50 ml | CCCCC | C5H12
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Ferrocenecarboxaldehyde sodium L-alaninate imine | 3.28 g, 950% | N[C@@H](C)C([O-])=N.[Na+].[C-]1(C=CC=C1)C=O.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C6H5O.C5H5.C3H8N2O.Fe.Na/c7-5-6-3-1-2-4-6;1-2-4-5-3-1;1-2(4)3(5)6;;/h1-5H;1-5H;2H,4H2,1H3,(H2,5,6);;/q2*-1;;+2;+1/p-1/t;;2-;;/m..0../s1
